US04012223
Preparation of 5-(4-Chlorocyclohexyl)-1,3,4-thiadiazol-2-yl Isocyanate Dimer
A saturated solution of phosgene in ethyl acetate (500 ml) is charged into a glass reaction vessel equipped with a mechanical stirrer. 5-(4-Chlorocyclohexyl)-2-amino-1,3,4-thiadiazole (6 grams) is added to the reaction vessel and the resulting mixture is stirred and heated at reflux for a period of about 4 hours, resulting in the formation of a precipitate. The reaction mixture is then purged with nitrogen gas to remove unreacted phosgene. The purged mixture is then filtered to recover the precipitate. The precipitate is then recrystallized to yield the desired product 5-(4-chlorocyclohexyl)-1,3,4-thiadiazol-2-yl isocyanate dimer.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 5-(4-Chlorocyclohexyl)-2-amino-1,3,4-thiadiazole | 6 grams | ClC1CCC(CC1)C1=NN=C(S1)N | C8H12ClN3S
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 5-(4-chlorocyclohexyl)-1,3,4-thiadiazol-2-yl isocyanate | ClC1CCC(CC1)C1=NN=C(S1)N=C=O | C9H10ClN3OS
